2182-04-25 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2182-4-25**] 03:57 AM
 NASAL SWAB - At [**2182-4-25**] 03:58 AM
 EKG - At [**2182-4-25**] 06:39 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2182-4-24**] 11:54 PM
   Cefipime - [**2182-4-25**] 05:36 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-4-25**] 03:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-25**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 118 (65 - 118) bpm
   BP: 132/73(88) {112/44(64) - 142/73(88)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  3,231 mL
                                                                  3,302 mL
   PO:
             TF:
   IVF:
                                                                    231 mL
                                                                  3,302 mL
   Blood products:
   Total out:
                                                                     45 mL
                                                                    240 mL
   Urine:
                                                                     45 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,186 mL
                                                                  3,062 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.39/36/77/19/-2
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   47 K/uL
   8.9 g/dL
   147 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.5 mEq/L
   41 mg/dL
   105 mEq/L
   134 mEq/L
   25.9 %
   0.7 K/uL
        [image002.jpg]
                             [**2182-4-25**]  12:33 AM
                             [**2182-4-25**]  03:21 AM
                             [**2182-4-25**]  03:43 AM
   WBC
   0.7
   Hct
   25.9
   Plt
   47
   Cr
   1.3
   1.2
   TCO2
   23
   Glucose
   144
   147
   Other labs: PT / PTT / INR:16.3/40.9/1.5, ALT / AST:530/713, Alk Phos /
   T Bili:288/6.6, Amylase / Lipase:[**Telephone/Fax (1) 6717**], Differential-Neuts:52.0 %,
   Band:1.0 %, Lymph:45.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.7
   mmol/L, Albumin:3.1 g/dL, LDH:552 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.8 mg/dL
   Assessment and Plan
   87 year old male with MDS with transition to leukemia presents with one
   day of sever abd. pain, N/V/D and evidence of pancreatitis on labs and
   CT.
   .
   #. Pancreatitis: Most likely etiology is gallstone pancreatitis given
   the acute onset. Stone not visible on current imaging so may have
   passed. Currently HD stable with good UOP. Pain improved.
   -Pain control with IV dilaudid in small doses
   -IVF titrate to BP and UOP, carefully given hx of CHF
   -Hold on central access for now given neutropenia and HD stability.
   -Con't cefepime/flagyl for biliary coverage prior to ERCP, also got one
   dose of [**Last Name (LF) **], [**First Name3 (LF) **] hold on further until renal function stabilized.
   -F/U bld/urine cx
   -Trend [**Doctor First Name **]/lipase etc.
   -Aggressive electrolyte repletion
   -ERCP planned for am to evaluate if any residual stone
   -Vit. K for INR of 1.5, goal platelets >50, transfuse as necessary
   .
   #.ARF: Likely prerenal. Has now received ample IVF
   -Recheck in am, con't IVF as above.
   -Hold ramipril for now
   .
   # Hyperglycemia: Likely due to pancreatitis
   -RISS for now
   .
   #. MDS/AML: Persistently neutropenic s/p 2 cycles of Dacogen. Due to
   start 3rd cycle today. However, becoming less transfusion dependent
   given stable to improved HCT and platelets. However, may be
   hemoconcentrated.
   -Con't renally dose allopurinol
   -Discuss with primary onc ([**Doctor Last Name 363**]) in am re: Dacogen and utility of
   GCSF
   .
   #. CHF: EF of 35%. No current signs of fluid overload.
   -Hold ramipril as above
   -Careful HD monitoring.
   .
   FEN: NPO, IVF
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen not needed given diarrhea
   -Pain management with IV dilaudid
   .
   ACCESS:2 PIV's
   .
   CODE STATUS: Confirmed full
   .
   EMERGENCY CONTACT: HCP is [**Name (NI) 242**] [**Last Name (NamePattern1) 6709**], [**Telephone/Fax (1) 6710**]
   .
   DISPOSITION: ICU for now
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-4-24**] 10:58 PM
   20 Gauge - [**2182-4-24**] 10:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-04-25 10:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2182-4-25**] 03:57 AM
 NASAL SWAB - At [**2182-4-25**] 03:58 AM
 EKG - At [**2182-4-25**] 06:39 AM
   Offers no new complaints (somewhat reserved).
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2182-4-25**] 05:36 AM
   Metronidazole - [**2182-4-25**] 08:52 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-4-25**] 03:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-27**] Mild
   Pain location: abdominal, diffuse
   Flowsheet Data as of  [**2182-4-25**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 106 (65 - 122) bpm
   BP: 118/44(67) {112/44(64) - 142/73(88)} mmHg
   RR: 25 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
           Total In:
                                                                  3,231 mL
                                                                  3,956 mL
   PO:
           TF:
   IVF:
                                                                    231 mL
                                                                  3,754 mL
   Blood products:
   202 mL
   Total out:
                                                                     45 mL
                                                                    365 mL
   Urine:
                                                                     45 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,186 mL
                                                                  3,591 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.39/36/77/19/-2
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   frail
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, Right eye enucleation
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, Tender: diffuse, No(t) Obese, voluntary guarding
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   47 K/uL
   147 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.5 mEq/L
   41 mg/dL
   105 mEq/L
   134 mEq/L
   25.9 %
   0.7 K/uL
        [image002.jpg]
                             [**2182-4-25**]  12:33 AM
                             [**2182-4-25**]  03:21 AM
                             [**2182-4-25**]  03:43 AM
   WBC
   0.7
   Hct
   25.9
   Plt
   47
   Cr
   1.3
   1.2
   TCO2
   23
   Glucose
   144
   147
   Other labs: PT / PTT / INR:16.3/40.9/1.5, ALT / AST:530/713, Alk Phos /
   T Bili:288/6.6, Amylase / Lipase:[**Telephone/Fax (1) 6717**], Differential-Neuts:52.0 %,
   Band:1.0 %, Lymph:45.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.7
   mmol/L, Albumin:3.1 g/dL, LDH:552 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.8 mg/dL
   Assessment and Plan
   Acute pancreatitis
   PANCREATITIS, ACUTE -- attributed to gallstones, perhaps passed.
   Clinically improved this AM.  Plan continue supportive care.
   BILIARY OBSTRUCTION -- concern for gallstone --> cholecystitis,
   cholangitis.  Awaiting ERCP today.
   FEVER -- attributed to cholecystitis.  Plan broad spectrum in setting
   of neutropenia.
   FLUIDS -- plan continue volume resussitation.  Monitor for
   PANCYTOPENIA -- MDS underlying, perhaps leukemic transfomation.
   Neutropenia.  Monitor.  GM-CSF not indicated.
   CHF - chronic, systolic EF= 35%.  Monitor for evidence of CHF
   ACUTE RENAL FAILURE -- improving with volume resussitation.  Continue
   fluid.  Monitor UO, BUN, creat.
   RESPIRATORY STATUS -- Oxygenation good on minimal supplemental oxygen.
   No evidence of CHF by exam or CXR at this time.
   ANEMIA -- Hct is now above his baseline due to hemoconcentration. With
   fluids, expect a drop. Not at transfusion threshold now. No evidence
   of  GI bleeding.
   ATRIAL FIBRILLATION (AFIB) -- good rate control.
   NUTRITIONAL SUPPORT -- NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-4-24**] 10:58 PM
   20 Gauge - [**2182-4-24**] 10:59 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2182-04-26 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   ERCP with stent placement no sphincterotomy, no stones removed.
   Afib with RVR given metoprolol resolved, recurred got another 5mg of
   metoprolol and blood pressure dropped to 70s and given IVF.
   Delerious, pulled out EJ line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-4-25**] 10:25 AM
   Metronidazole - [**2182-4-25**] 11:42 PM
   Cefipime - [**2182-4-26**] 05:56 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2182-4-25**] 09:45 PM
   Hydromorphone (Dilaudid) - [**2182-4-26**] 04:52 AM
   Metoprolol - [**2182-4-26**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Will not answer questions or follow commands
   Flowsheet Data as of  [**2182-4-26**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.9
C (98.4
   HR: 125 (65 - 132) bpm
   BP: 98/46(60) {91/38(52) - 132/73(88)} mmHg
   RR: 17 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  6,494 mL
                                                                    663 mL
   PO:
             TF:
   IVF:
                                                                  6,292 mL
                                                                    663 mL
   Blood products:
                                                                    202 mL
   Total out:
                                                                    788 mL
                                                                    280 mL
   Urine:
                                                                    788 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,706 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   Gen: Delerious, trying to get out of bed, restrained, not answering
   questions
   HEENT: MM dry
   Heart; Tachycardic, regular
   Lungs: Scant crackles in bases bilaterally
   Abd: Moderately rigid w/ mild unintentional guarding and intentional
   guarding.  BS+
   Ext: No edema
   Labs / Radiology
   72 K/uL
   8.0 g/dL
   80 mg/dL
   1.3 mg/dL
   17 mEq/L
   4.8 mEq/L
   47 mg/dL
   109 mEq/L
   139 mEq/L
   23.6 %
   1.3 K/uL
        [image002.jpg]
                             [**2182-4-25**]  12:33 AM
                             [**2182-4-25**]  03:21 AM
                             [**2182-4-25**]  03:43 AM
                             [**2182-4-25**]  02:28 PM
                             [**2182-4-26**]  04:04 AM
   WBC
   0.7
   1.3
   Hct
   25.9
   23.6
   Plt
   47
   92
   72
   Cr
   1.3
   1.2
   1.3
   TCO2
   23
   Glucose
   144
   147
   80
   Other labs: PT / PTT / INR:16.3/40.9/1.5, ALT / AST:285/208, Alk Phos /
   T Bili:179/4.4, Amylase / Lipase:887/789, Differential-Neuts:52.0 %,
   Band:1.0 %, Lymph:45.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.7
   mmol/L, Albumin:3.1 g/dL, LDH:422 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   87 year old male with MDS with transition to leukemia presents with one
   day of sever abd. pain, N/V/D and evidence of pancreatitis on labs and
   CT.
   .
   #. Pancreatitis:  Likely gallstone pancreatitis, still appears to
   require fluids but enzymes including LFTs trending downward.
   -Pain control with IV dilaudid in small doses
   -IVF titrate to BP and UOP, carefully given hx of CHF
   -Hold on central access for now given neutropenia
   -Con't cefepime/flagyl/vanc covering for neutropenic fever
   -F/U bld/urine cx
   -Trend [**Doctor First Name **]/lipase etc.
   -Aggressive electrolyte repletion
   .
   #.ARF: Likely prerenal. Worsening again. Likely needs more aggressive
   volume repletion
   - Bolus IVF to keep UOP >50cc/hr
   .
   # Hyperglycemia: Resolved
   -RISS for now
   .
   #. MDS/AML: Literature supports GMCSF for neutrapenic fever in MDS if
   infection/fever not responding to Abx or with EPO to increase RBC
   production.
   - Hold on GMCSF for now as fever likely [**2-25**] pancreatitis
   .
   #Delerium: Several etiologies including pain, sleep deprivation,
   opiates, constipation. Most likely would be pain and sleep deprivation
   so will be more aggressive with pain control and maximize sleep
   hygeine. Will only use antipsychotics PRN if pt. very combative as they
   increase risk falls, aspiration, stroke, torsades.
   - Aggressive pain management
   - Improve sleep hygeine
   - Frequent reorientation
   .
   #. CHF: EF of 35%. No current signs of fluid overload.
   -Hold ramipril as above
   -Careful HD monitoring.
   .
   FEN: NPO, IVF
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen not needed given diarrhea
   -Pain management with IV dilaudid
   .
   ACCESS:2 PIV's
   .
   CODE STATUS: DNR/DNI
   .
   EMERGENCY CONTACT: HCP is [**Name (NI) 242**] [**Last Name (NamePattern1) 6709**], [**Telephone/Fax (1) 6710**]
   .
   DISPOSITION: ICU for now
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-4-24**] 10:58 PM
   20 Gauge - [**2182-4-24**] 10:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2182-04-26 10:21:00 Physician Attending Progress Note
Chief Complaint: Acute pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ERCP - At [**2182-4-25**] 11:30 AM
   Brought to ERCP, intubated for the procedure
 EKG - At [**2182-4-25**] 12:57 PM
 EKG - At [**2182-4-26**] 02:36 AM
   ERCP performed, with placement of stent (no incisions).
   Continues to experience episodes of A-fib with RVR --> responded to iv
   metoprolol.
   Exhibited confusion overnight, self d/c'd iv's.  Less cooperative this
   AM. quite withdrawn.
   Receiving PRBC transfusion, no obvious significant bleeding.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-4-25**] 10:25 AM
   Metronidazole - [**2182-4-25**] 11:42 PM
   Cefipime - [**2182-4-26**] 05:56 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2182-4-25**] 09:45 PM
   Hydromorphone (Dilaudid) - [**2182-4-26**] 08:18 AM
   Metoprolol - [**2182-4-26**] 08:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2182-4-26**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 113 (65 - 132) bpm
   BP: 77/42(50) {77/38(50) - 125/63(78)} mmHg
   RR: 12 (12 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
           Total In:
                                                                  6,494 mL
                                                                  1,782 mL
   PO:
           TF:
   IVF:
                                                                  6,292 mL
                                                                  1,700 mL
   Blood products:
                                                                    202 mL
                                                                     82 mL
   Total out:
                                                                    788 mL
                                                                    545 mL
   Urine:
                                                                    788 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,706 mL
                                                                  1,237 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///17/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Frail
   appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: epigastric and RUQ, No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Withdrawan.  Occasionally aggitated.
   Labs / Radiology
   8.0 g/dL
   72 K/uL
   80 mg/dL
   1.3 mg/dL
   17 mEq/L
   4.8 mEq/L
   47 mg/dL
   109 mEq/L
   139 mEq/L
   23.6 %
   1.3 K/uL
        [image002.jpg]
                             [**2182-4-25**]  12:33 AM
                             [**2182-4-25**]  03:21 AM
                             [**2182-4-25**]  03:43 AM
                             [**2182-4-25**]  02:28 PM
                             [**2182-4-26**]  04:04 AM
   WBC
   0.7
   1.3
   Hct
   25.9
   23.6
   Plt
   47
   92
   72
   Cr
   1.3
   1.2
   1.3
   TCO2
   23
   Glucose
   144
   147
   80
   Other labs: PT / PTT / INR:16.3/40.9/1.5, ALT / AST:285/208, Alk Phos /
   T Bili:179/4.4, Amylase / Lipase:887/789, Differential-Neuts:54.0 %,
   Band:10.0 %, Lymph:26.0 %, Mono:1.0 %, Eos:2.0 %, Lactic Acid:1.7
   mmol/L, Albumin:3.1 g/dL, LDH:422 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.2 mg/dL
   Imaging: CXR ([**2182-4-26**]) small lung volumes
   Assessment and Plan
   Acute pancreatitis, attributed to gallstones.
   PANCREATITIS, ACUTE -- attributed to gallstones, perhaps passed.
   Clinically improved this AM, blood chemistries improving.  Plan
   continue supportive care.
   BILIARY OBSTRUCTION -- concern for gallstone --> cholecystitis,
   cholangitis.  s/p ERCP with stenting yesterday.
   RESPIRATORY STATUS -- Oxygenating well supplemental oxygen.
   Infiltrates on CXR may be due to CHF, evolving ARDS or low lung
   volumes.
   FEVER -- attributed to cholecystitis.  Continue broad spectrum in
   setting of neutropenia.
   PAIN REGIMEN -- iv dilaudid with good control.  Not yet taking PO.
   DELERIUM --  suspect predominatly due to medications (esp. pain meds),
   perhaps toxic-metabolic, ICU psychosis.  Doubt CNS infection.
   FLUIDS -- plan continue volume resussitation.  Monitor for CHF.
   PANCYTOPENIA -- MDS underlying, perhaps leukemic transfomation.
   Neutropenia.  Monitor.  GM-CSF not indicated.
   CHF - chronic, systolic EF= 35%.  Monitor for evidence of CHF
   ACUTE RENAL FAILURE -- improved with volume resussitation.  Continue
   fluid.  Monitor UO, BUN, creat.
   ANEMIA -- Transfusing currently.  GI bleeding.
   ATRIAL FIBRILLATION (AFIB) -- improved rate control on iv metoprolol.
   NUTRITIONAL SUPPORT -- NPO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-4-24**] 10:58 PM
   20 Gauge - [**2182-4-24**] 10:59 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2182-04-27 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -UOP< 50cc/hr so received fluid bolus in AM
   -blood cx NGTD
   -written for PRN haldol, dilaudid
   -For increased HR got metoprolol 2.5IV x1 for A fib with RVR
   -6pm self coverted to sinus
   -HCT in AM 25.9 transfused one unit -> 23.6 transfused one unit ->
   Pending
   -written for guiac stools
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-4-26**] 09:00 AM
   Metronidazole - [**2182-4-27**] 12:28 AM
   Cefipime - [**2182-4-27**] 05:33 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-4-26**] 09:00 AM
   Metoprolol - [**2182-4-26**] 03:45 PM
   Hydromorphone (Dilaudid) - [**2182-4-27**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-27**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.7
   HR: 89 (72 - 150) bpm
   BP: 121/43(61) {77/42(50) - 135/72(82)} mmHg
   RR: 17 (11 - 22) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
           Total In:
                                                                  3,019 mL
                                                                    353 mL
   PO:
           TF:
   IVF:
                                                                  2,350 mL
                                                                    322 mL
   Blood products:
                                                                    669 mL
                                                                     31 mL
   Total out:
                                                                  1,475 mL
                                                                    550 mL
   Urine:
                                                                  1,475 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,544 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///16/
   Physical Examination
   Gen: Delerious, not answering questions, not following commands
   HEENT: Dry MM
   Heart: irregular, tachycardic
   Lungs: Scant crackles in bases bilaterally
   Abd: Soft, nontender, BS+, no guarding
   Ext: 1+ pitting edema
   Labs / Radiology
   72 K/uL
   8.0 g/dL
   63 mg/dL
   1.3 mg/dL
   16 mEq/L
   4.6 mEq/L
   48 mg/dL
   112 mEq/L
   140 mEq/L
   23.6 %
   1.3 K/uL
        [image002.jpg]
                             [**2182-4-25**]  12:33 AM
                             [**2182-4-25**]  03:21 AM
                             [**2182-4-25**]  03:43 AM
                             [**2182-4-25**]  02:28 PM
                             [**2182-4-26**]  04:04 AM
                             [**2182-4-26**]  03:43 PM
   WBC
   0.7
   1.3
   Hct
   25.9
   23.6
   Plt
   47
   92
   72
   Cr
   1.3
   1.2
   1.3
   1.3
   TCO2
   23
   Glucose
   144
   147
   80
   63
   Other labs: PT / PTT / INR:16.3/40.9/1.5, ALT / AST:285/208, Alk Phos /
   T Bili:179/4.4, Amylase / Lipase:887/789, Differential-Neuts:54.0 %,
   Band:10.0 %, Lymph:26.0 %, Mono:1.0 %, Eos:2.0 %, Lactic Acid:1.7
   mmol/L, Albumin:3.1 g/dL, LDH:422 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   87 year old male with MDS with transition to leukemia presents with one
   day of sever abd. pain, N/V/D and evidence of pancreatitis on labs and
   CT.
   .
   #. Pancreatitis:  amylase/lipase, LFTs continue to improve. Not
   requiring frequent fluid boluses anymore. Does not appear to be having
   a lot of pain currently. Beginning to mobilize some fluid.
   -IVF titrate to BP and UOP, carefully given hx of CHF
   -Con't cefepime/flagyl/vanc covering for neutropenic fever
   -F/U bld/urine cx
   -Trend [**Doctor First Name **]/lipase etc.
   -Aggressive electrolyte repletion
   .
   #Atrial fibrillation: Likely contribution from fluid overload and
   atrial stretch. Will allow autodiuresis for now. Will need PO regimen
   for long term control of rate, would not be anticoagulation candidate
   given thrombocytopenia.
   - Dilt drip for now
   - Convert to PO metoprolol when taking PO
   .
   #.ARF: Undulating baseline, UOP has been good
   - Hold further fluids for now.
   .
   #O2 requirement: Likely fluid overload as increased with IVF. Pt.
   autodiuresing now.
   - Goal negative 500cc-1L, give furosemide 10mg IV if not at goal
   - Furosemide bolus if becoming more hypoxic
   # Hyperglycemia: Resolved
   -RISS for now
   .
   #. MDS/AML: Neutrapenia improving spontaneously likely not neutrapenic
   anymore. Literature supports GMCSF for neutrapenic fever in MDS if
   infection/fever not responding to Abx or with EPO to increase RBC
   production.
   - Hold on GMCSF for now as fever likely [**2-25**] pancreatitis
   .
   #Delerium: Likely more due to opiates than pain as he did not improve
   with treating his pain.  Will only use antipsychotics PRN if pt. very
   combative as they increase risk falls, aspiration, stroke, torsades.
   - Hold opiates
   - Improve sleep hygeine
   - Frequent reorientation during daylight hours
   .
   #. CHF: EF of 35%. Currently fluid overloaded.
   -Hold ramipril as above
   -Careful HD monitoring.
   .
   FEN: NPO, IVF
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen not needed given diarrhea
   -Pain management with IV dilaudid
   .
   ACCESS:2 PIV's
   .
   CODE STATUS: DNR/DNI
   .
   EMERGENCY CONTACT: HCP is [**Name (NI) 242**] [**Last Name (NamePattern1) 6709**], [**Telephone/Fax (1) 6710**]
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-4-26**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2182-04-27 11:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experiencing A-fib with RVR, now requiring Diltiazem drip.
   Remains delerious.
   Non-cooperative.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2182-4-27**] 05:33 AM
   Vancomycin - [**2182-4-27**] 07:30 AM
   Metronidazole - [**2182-4-27**] 08:05 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Metoprolol - [**2182-4-26**] 03:45 PM
   Hydromorphone (Dilaudid) - [**2182-4-27**] 05:11 AM
   Pantoprazole (Protonix) - [**2182-4-27**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2182-4-27**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 86 (72 - 150) bpm
   BP: 100/46(60) {96/42(57) - 135/64(81)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SA (Sinus Arrhythmia)
   Height: 72 Inch
           Total In:
                                                                  3,019 mL
                                                                    735 mL
   PO:
           TF:
   IVF:
                                                                  2,350 mL
                                                                    704 mL
   Blood products:
                                                                    669 mL
                                                                     31 mL
   Total out:
                                                                  1,475 mL
                                                                    725 mL
   Urine:
                                                                  1,475 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,544 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///16/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): person, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Withdrawn, uncooperative
   Labs / Radiology
   8.0 g/dL
   72 K/uL
   63 mg/dL
   1.3 mg/dL
   16 mEq/L
   4.6 mEq/L
   48 mg/dL
   112 mEq/L
   140 mEq/L
   23.6 %
   1.3 K/uL
        [image002.jpg]
                             [**2182-4-25**]  12:33 AM
                             [**2182-4-25**]  03:21 AM
                             [**2182-4-25**]  03:43 AM
                             [**2182-4-25**]  02:28 PM
                             [**2182-4-26**]  04:04 AM
                             [**2182-4-26**]  03:43 PM
   WBC
   0.7
   1.3
   Hct
   25.9
   23.6
   Plt
   47
   92
   72
   Cr
   1.3
   1.2
   1.3
   1.3
   TCO2
   23
   Glucose
   144
   147
   80
   63
   Other labs: PT / PTT / INR:16.3/40.9/1.5, ALT / AST:285/208, Alk Phos /
   T Bili:179/4.4, Amylase / Lipase:887/789, Differential-Neuts:54.0 %,
   Band:10.0 %, Lymph:26.0 %, Mono:1.0 %, Eos:2.0 %, Lactic Acid:1.7
   mmol/L, Albumin:3.1 g/dL, LDH:422 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   Acute pancreatitis, attributed to gallstones.
   PANCREATITIS, ACUTE -- attributed to gallstones, perhaps passed.
   Clinically improved.
   BILIARY OBSTRUCTION -- attributed to gallstones; s/p ERCP with
   stenting.
   RESPIRATORY STATUS -- Infiltrates on CXR may be due to CHF, evolving
   ARDS or low lung volumes.  Requiring increased FiO2.  Monitor.
   ATRIAL FIBRILLATION (AFIB) -- improved rate control on iv diltiazem
   drip.
   FEVER -- Resolved.  Continue broad spectrum in setting of neutropenia.
   PAIN REGIMEN -- No pain.  Monitor.
   DELERIUM --  suspect predominatly due to medications (esp. pain meds),
   perhaps toxic-metabolic, ICU psychosis.  Doubt CNS infection.  Plan d/c
   narcotics.
   FLUIDS -- volume expanded.  Hope to net diurese.  Monitor for CHF.
   PANCYTOPENIA -- MDS underlying, perhaps leukemic transfomation.
   Neutropenia.  Monitor.  GM-CSF not indicated.
   CHF - chronic, systolic EF= 35%.  Monitor for evidence of CHF.
   ACUTE RENAL FAILURE -- improved with volume resussitation.  Continue
   fluid.  Monitor UO, BUN, creat.
   ANEMIA -- Transfusing currently.  No evidence GI bleeding.
   NUTRITIONAL SUPPORT -- NPO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-4-26**] 08:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2182-04-28 05:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Still delerious
   - LFTs, amylase, lipase trended down
   - stopped opiates for delerium
   - UOP remained good, autodiuresing so no lasix
   - Kept on dilt drip for afib-not taking Pos took Pos this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2182-4-27**] 05:33 AM
   Vancomycin - [**2182-4-27**] 07:30 AM
   Metronidazole - [**2182-4-27**] 04:30 PM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-4-27**] 08:05 AM
   Hydromorphone (Dilaudid) - [**2182-4-27**] 11:30 AM
   Metoprolol - [**2182-4-28**] 04:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-28**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.9
C (96.7
   HR: 98 (70 - 130) bpm
   BP: 124/56(72) {100/42(60) - 146/79(95)} mmHg
   RR: 24 (13 - 25) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,149 mL
                                                                    133 mL
   PO:
             TF:
   IVF:
                                                                  1,118 mL
                                                                    133 mL
   Blood products:
                                                                     31 mL
   Total out:
                                                                  1,775 mL
                                                                    640 mL
   Urine:
                                                                  1,775 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -626 mL
                                                                   -507 mL
   Respiratory support
   SpO2: 90%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   75 K/uL
   8.8 g/dL
   93 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.5 mEq/L
   47 mg/dL
   111 mEq/L
   138 mEq/L
   25.5 %
   2.5 K/uL
        [image002.jpg]
                             [**2182-4-25**]  12:33 AM
                             [**2182-4-25**]  03:21 AM
                             [**2182-4-25**]  03:43 AM
                             [**2182-4-25**]  02:28 PM
                             [**2182-4-26**]  04:04 AM
                             [**2182-4-26**]  03:43 PM
                             [**2182-4-27**]  08:13 AM
   WBC
   0.7
   1.3
   2.5
   Hct
   25.9
   23.6
   25.5
   Plt
   47
   92
   72
   75
   Cr
   1.3
   1.2
   1.3
   1.3
   1.4
   TCO2
   23
   Glucose
   144
   147
   80
   63
   93
   Other labs: PT / PTT / INR:19.2/53.8/1.8, ALT / AST:170/156, Alk Phos /
   T Bili:130/3.8, Amylase / Lipase:297/112, Differential-Neuts:54.0 %,
   Band:10.0 %, Lymph:26.0 %, Mono:1.0 %, Eos:2.0 %, Lactic Acid:1.7
   mmol/L, Albumin:3.1 g/dL, LDH:422 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   87 year old male with MDS with transition to leukemia presents with one
   day of sever abd. pain, N/V/D and evidence of pancreatitis on labs and
   CT.
   .
   #. Pancreatitis:  amylase/lipase, LFTs continue to improve. Not
   requiring frequent fluid boluses anymore. Does not appear to be having
   a lot of pain currently. Beginning to mobilize some fluid.
   -IVF titrate to BP and UOP, carefully given hx of CHF
   -Con't cefepime/flagyl/vanc covering for neutropenic fever
   -F/U bld/urine cx
   -Trend [**Doctor First Name **]/lipase etc.
   -Aggressive electrolyte repletion
   .
   #Atrial fibrillation: Likely contribution from fluid overload and
   atrial stretch. Will allow autodiuresis for now. Will need PO regimen
   for long term control of rate, would not be anticoagulation candidate
   given thrombocytopenia.
   - Dilt drip for now
   - Convert to PO metoprolol when taking PO
   .
   #.ARF: Undulating baseline, UOP has been good
   - Hold further fluids for now.
   .
   #O2 requirement: Likely fluid overload as increased with IVF. Pt.
   autodiuresing now.
   - Goal negative 500cc-1L, give furosemide 10mg IV if not at goal
   - Furosemide bolus if becoming more hypoxic
   # Hyperglycemia: Resolved
   -RISS for now
   .
   #. MDS/AML: Neutrapenia improving spontaneously likely not neutrapenic
   anymore. Literature supports GMCSF for neutrapenic fever in MDS if
   infection/fever not responding to Abx or with EPO to increase RBC
   production.
   - Hold on GMCSF for now as fever likely [**2-25**] pancreatitis
   .
   #Delerium: Likely more due to opiates than pain as he did not improve
   with treating his pain.  Will only use antipsychotics PRN if pt. very
   combative as they increase risk falls, aspiration, stroke, torsades.
   - Hold opiates
   - Improve sleep hygeine
   - Frequent reorientation during daylight hours
   .
   #. CHF: EF of 35%. Currently fluid overloaded.
   -Hold ramipril as above
   -Careful HD monitoring.
   .
   FEN: NPO, IVF
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen not needed given diarrhea
   -Pain management with IV dilaudid
   .
   ACCESS:2 PIV's
   .
   CODE STATUS: DNR/DNI
   .
   EMERGENCY CONTACT: HCP is [**Name (NI) 242**] [**Last Name (NamePattern1) 6709**], [**Telephone/Fax (1) 6710**]
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-4-27**] 12:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2182-04-28 11:44:00 Physician Attending Progress Note
Chief Complaint: Acute pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overall, more cooperative.  Able to swallow pills.
   However, still somewhat withdrawn, refusing to wear supplimental
   oxygen.
   Experienced some A-Fib with RVR while on Diltiazem drip --> d/c'd and
   now on prn Metoprolol (PO)
   Mild right-sided HA this AM, but not significant.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2182-4-27**] 05:33 AM
   Vancomycin - [**2182-4-28**] 08:30 AM
   Metronidazole - [**2182-4-28**] 09:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2182-4-27**] 11:30 AM
   Metoprolol - [**2182-4-28**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2182-4-28**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 106 (70 - 150) bpm
   BP: 90/50(60) {90/42(60) - 146/84(95)} mmHg
   RR: 27 (14 - 32) insp/min
   SpO2: 88%
   Heart rhythm: SA (Sinus Arrhythmia)
   Height: 72 Inch
             Total In:
                                                                  1,149 mL
                                                                    520 mL
   PO:
             TF:
   IVF:
                                                                  1,118 mL
                                                                    520 mL
   Blood products:
                                                                     31 mL
   Total out:
                                                                  1,775 mL
                                                                    870 mL
   Urine:
                                                                  1,775 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -626 mL
                                                                   -350 mL
   Respiratory support
   SpO2: 88%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, Right eye prosthesis
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   73 K/uL
   93 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.5 mEq/L
   47 mg/dL
   111 mEq/L
   138 mEq/L
   28.4 %
   2.5 K/uL
        [image002.jpg]
                             [**2182-4-25**]  12:33 AM
                             [**2182-4-25**]  03:21 AM
                             [**2182-4-25**]  03:43 AM
                             [**2182-4-25**]  02:28 PM
                             [**2182-4-26**]  04:04 AM
                             [**2182-4-26**]  03:43 PM
                             [**2182-4-27**]  08:13 AM
                             [**2182-4-28**]  10:32 AM
   WBC
   0.7
   1.3
   2.5
   Hct
   25.9
   23.6
   25.5
   28.4
   Plt
   47
   92
   72
   75
   73
   Cr
   1.3
   1.2
   1.3
   1.3
   1.4
   TCO2
   23
   Glucose
   144
   147
   80
   63
   93
   Other labs: PT / PTT / INR:19.2/53.8/1.8, ALT / AST:170/156, Alk Phos /
   T Bili:130/3.8, Amylase / Lipase:297/112, Differential-Neuts:54.0 %,
   Band:10.0 %, Lymph:26.0 %, Mono:1.0 %, Eos:2.0 %, Lactic Acid:1.7
   mmol/L, Albumin:3.1 g/dL, LDH:422 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   Acute pancreatitis, attributed to gallstones.
   PANCREATITIS, ACUTE -- attributed to gallstones, perhaps passed.
   Clinically improved.
   BILIARY OBSTRUCTION -- attributed to gallstones; s/p ERCP with
   stenting.
   RESPIRATORY STATUS -- Infiltrates on CXR may be due to CHF, evolving
   ARDS or low lung volumes.  Requiring increased FiO2.  Monitor.
   ATRIAL FIBRILLATION (AFIB) -- improved rate control, now back on po
   metoprolol.  Poor anticoagulaton candidate at this time (low plts)
   FEVER -- Resolved.  Continue broad spectrum antimirobials to complete
   course.
   PAIN REGIMEN -- No pain.  Monitor.
   DELERIUM --  much improved today, likely significant component of
   opiate-induced delerium.  [**Month (only) 51**] be component of ICU psychosis. Monitor
   off narcotics.
   FLUIDS -- volume expanded.  Hope to net diurese --> now spontaneous
   diuresis.  Monitor for CHF.
   PANCYTOPENIA -- MDS underlying, perhaps leukemic transfomation.
   Neutropenia resolved.  Monitor.  GM-CSF not indicated.
   CHF - chronic, systolic EF= 35%.  Monitor for evidence of CHF.
   ACUTE RENAL FAILURE -- improved with volume resussitation.  Continue
   fluid.  Monitor UO, BUN, creat.
   ANEMIA -- Transfusing currently.  No evidence GI bleeding.
   NUTRITIONAL SUPPORT -- initate PO fluids, with supervision.
   ACTIVITY -- OOB to chair.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-4-27**] 12:59 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2182-04-29 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Refused PO lopressor, required Lopressor IV prn for rate control
   - d/c Foley
   - On Clear liquid diet.  Nutrition recs: Advance diet as tolerated
   Oral supplements: chocolate ensure once diet is advanced
   Multivitamin / Mineral supplement: via po
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-4-28**] 08:30 AM
   Metronidazole - [**2182-4-29**] 01:39 AM
   Cefipime - [**2182-4-29**] 06:38 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2182-4-28**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-29**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 116 (86 - 151) bpm
   BP: 135/68(85) {90/50(60) - 152/84(93)} mmHg
   RR: 26 (18 - 39) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                    895 mL
                                                                    464 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    895 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                      0 mL
   Urine:
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -50 mL
                                                                    464 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   Gen: Follows commands, cannot give location or date
   HEENT: Dry MM, R facial droop
   Heart: Tachycardic, irregular
   Lungs: CTAB
   Abd: Minimally tender in epigastrium w/ no guarding, BS+
   Ext: Trace pitting edema bilaterally
   Labs / Radiology
   60 K/uL
   8.8 g/dL
   106 mg/dL
   1.1 mg/dL
   18 mEq/L
   3.9 mEq/L
   52 mg/dL
   116 mEq/L
   145 mEq/L
   25.8 %
   4.3 K/uL
        [image002.jpg]
                             [**2182-4-25**]  12:33 AM
                             [**2182-4-25**]  03:21 AM
                             [**2182-4-25**]  03:43 AM
                             [**2182-4-25**]  02:28 PM
                             [**2182-4-26**]  04:04 AM
                             [**2182-4-26**]  03:43 PM
                             [**2182-4-27**]  08:13 AM
                             [**2182-4-28**]  10:32 AM
                             [**2182-4-29**]  06:05 AM
   WBC
   0.7
   1.3
   2.5
   3.4
   4.3
   Hct
   25.9
   23.6
   25.5
   28.4
   25.8
   Plt
   47
   92
   72
   75
   73
   60
   Cr
   1.3
   1.2
   1.3
   1.3
   1.4
   1.1
   1.1
   TCO2
   23
   Glucose
   144
   147
   80
   63
   93
   150
   106
   Other labs: PT / PTT / INR:19.2/53.8/1.8, ALT / AST:133/83, Alk Phos /
   T Bili:128/4.5, Amylase / Lipase:145/66, Differential-Neuts:76.0 %,
   Band:4.0 %, Lymph:11.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.7
   mmol/L, Albumin:3.1 g/dL, LDH:567 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   87 year old male with MDS with transition to leukemia presents with one
   day of sever abd. pain, N/V/D and evidence of pancreatitis on labs and
   CT.
   .
   #. Pancreatitis:  amylase/lipase, LFTs continue to improve. Not
   requiring any fluid support and autodiuresing. Does not appear to be
   having a lot of pain currently. Mobilization of fluid suggesting that
   vascular leak has improved.
   - Clear liquid diet advance as tolerated
   -Con't cefepime/flagyl/vanc covering for neutropenic fever until [**5-6**]
   -F/U bld/urine cx
   -Trend [**Doctor First Name **]/lipase etc.
   - electrolyte repletion
   .
   #Atrial fibrillation: Improving after autodiuresis. Now good control w/
   POs
   - PO metoprolol 25mg TID and uptitrate as necessary
   .
   #.ARF: Undulating baseline, UOP has been good
   - Hold further fluids for now.
   .
   #O2 requirement: Improving w/  autodiuresis
   - Goal negative 500cc-1L, give furosemide 10mg IV if not at goal
   - Furosemide bolus if becoming more hypoxic
   # Hyperglycemia: Resolved
   -RISS for now
   .
   #. MDS/AML: Neutrapenia improving spontaneously likely not neutrapenic
   anymore. Literature supports GMCSF for neutrapenic fever in MDS if
   infection/fever not responding to Abx or with EPO to increase RBC
   production.
   - Hold on GMCSF for now as fever likely [**2-25**] pancreatitis
   .
   #Delerium: Improving w/ sleep and holding opiates.
   - Hold opiates
   - Improve sleep hygeine
   - Frequent reorientation during daylight hours
   - PT consult
   -OOB to chair during daylight
   - d/c foley
   .
   #. CHF: EF of 35%. Currently fluid overloaded.
   -Hold ramipril as above
   -Careful HD monitoring.
   .
   FEN: NPO, IVF
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen not needed given diarrhea
   -Pain management with IV dilaudid
   .
   ACCESS:2 PIV's
   .
   CODE STATUS: DNR/DNI
   .
   EMERGENCY CONTACT: HCP is [**Name (NI) 242**] [**Last Name (NamePattern1) 6709**], [**Telephone/Fax (1) 6710**]
   .
   DISPOSITION: call out to BMT if does not require IV metoprolol
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-4-27**] 12:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2182-04-29 11:32:00 Physician Attending Progress Note
Chief Complaint: A-fibrillation, tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to experience A-fib with RVR,
   Mental status continues to improve.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2182-4-29**] 01:39 AM
   Cefipime - [**2182-4-29**] 06:38 AM
   Vancomycin - [**2182-4-29**] 08:06 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2182-4-29**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 100 (94 - 151) bpm
   BP: 107/66(76) {92/54(67) - 152/97(103)} mmHg
   RR: 23 (18 - 39) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                    895 mL
                                                                    703 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    895 mL
                                                                    463 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                      0 mL
   Urine:
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -50 mL
                                                                    703 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): hospital, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   60 K/uL
   106 mg/dL
   1.1 mg/dL
   18 mEq/L
   3.9 mEq/L
   52 mg/dL
   116 mEq/L
   145 mEq/L
   25.8 %
   4.3 K/uL
        [image002.jpg]
                             [**2182-4-25**]  12:33 AM
                             [**2182-4-25**]  03:21 AM
                             [**2182-4-25**]  03:43 AM
                             [**2182-4-25**]  02:28 PM
                             [**2182-4-26**]  04:04 AM
                             [**2182-4-26**]  03:43 PM
                             [**2182-4-27**]  08:13 AM
                             [**2182-4-28**]  10:32 AM
                             [**2182-4-29**]  06:05 AM
   WBC
   0.7
   1.3
   2.5
   3.4
   4.3
   Hct
   25.9
   23.6
   25.5
   28.4
   25.8
   Plt
   47
   92
   72
   75
   73
   60
   Cr
   1.3
   1.2
   1.3
   1.3
   1.4
   1.1
   1.1
   TCO2
   23
   Glucose
   144
   147
   80
   63
   93
   150
   106
   Other labs: PT / PTT / INR:19.2/53.8/1.8, ALT / AST:133/83, Alk Phos /
   T Bili:128/4.5, Amylase / Lipase:145/66, Differential-Neuts:76.0 %,
   Band:4.0 %, Lymph:11.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.7
   mmol/L, Albumin:3.1 g/dL, LDH:567 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   Acute pancreatitis, attributed to gallstones, now with A-fib and
   delerium.
   ATRIAL FIBRILLATION (AFIB) -- variable rate control, but not taking PO
   meds --> now back on po metoprolol. (Consider Digoxin).   Poor
   anticoagulaton candidate at this time (low plts).
   DELERIUM --  Continues to improve daily, attributed to opiate-induced
   delerium.  [**Month (only) 51**] be component of ICU psychosis. Continue to monitor off
   narcotics.
   PANCREATITIS, ACUTE -- attributed to gallstones, perhaps passed.
   Clinically improved following ERCP.
   BILIARY OBSTRUCTION -- attributed to gallstones; s/p ERCP with
   stenting.
   RESPIRATORY STATUS -- Infiltrates on CXR may be due to CHF, evolving
   ARDS or low lung volumes.  Requiring increased FiO2.  Monitor.
   FEVER -- Resolved.  Continue broad spectrum antimirobials to complete
   course.
   PAIN REGIMEN -- No pain.  Monitor.
   FLUIDS -- volume expanded.  Hope to net diurese.  Monitor for CHF.
   PANCYTOPENIA -- MDS underlying, perhaps leukemic transfomation.
   Neutropenia resolved.  Monitor.  GM-CSF not indicated.
   CHF - chronic, systolic EF= 35%.  Monitor for evidence of CHF.
   ACUTE RENAL FAILURE -- improved with volume resussitation.  Continue
   fluid.  Monitor UO, BUN, creat.
   ANEMIA -- Transfusing currently.  No evidence GI bleeding.
   NUTRITIONAL SUPPORT -- initate PO fluids, with supervision.
   ACTIVITY -- OOB to chair.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-4-27**] 12:59 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2182-04-30 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -A fib with abberancy got IV metoprolol x1, started PO metoprolol
   crushed in apple sauce
   -foley d/c for delirium
   -brady to the 40s
   -lost all IV access, ordered PICC
   - Discussed plans with pt.s wife [**Name (NI) 787**] [**Name (NI) 6706**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2182-4-29**] 01:39 AM
   Cefipime - [**2182-4-29**] 06:38 AM
   Vancomycin - [**2182-4-29**] 08:06 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-4-29**] 10:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-30**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 51 (47 - 158) bpm
   BP: 110/43(59) {89/43(56) - 137/97(103)} mmHg
   RR: 24 (21 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
                  Total In:
                                                                  1,271 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                  1,031 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,271 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   Gen: Awake, answering simple yes/no questions
   HEENT: Dry MM
   Heart: Bradycardic, irregular
   Lungs: Clear anteriorly
   Abd: Soft, mildly tender, BS+, no guarding
   Ext: Trace pitting edema in upper and lower extremities bilaterally
   Labs / Radiology
   60 K/uL
   8.8 g/dL
   119
   1.1 mg/dL
   18 mEq/L
   3.9 mEq/L
   52 mg/dL
   116 mEq/L
   145 mEq/L
   25.8 %
   4.3 K/uL
        [image002.jpg]
                             [**2182-4-25**]  03:21 AM
                             [**2182-4-25**]  03:43 AM
                             [**2182-4-25**]  02:28 PM
                             [**2182-4-26**]  04:04 AM
                             [**2182-4-26**]  03:43 PM
                             [**2182-4-27**]  08:13 AM
                             [**2182-4-28**]  10:32 AM
                             [**2182-4-29**]  06:05 AM
                             [**2182-4-29**]  12:00 PM
                             [**2182-4-29**]  06:00 PM
   WBC
   0.7
   1.3
   2.5
   3.4
   4.3
   Hct
   25.9
   23.6
   25.5
   28.4
   25.8
   Plt
   47
   92
   72
   75
   73
   60
   Cr
   1.3
   1.2
   1.3
   1.3
   1.4
   1.1
   1.1
   Glucose
   144
   147
   80
   63
   93
   150
   106
   159
   119
   Other labs: PT / PTT / INR:19.2/53.8/1.8, ALT / AST:133/83, Alk Phos /
   T Bili:128/4.5, Amylase / Lipase:145/66, Differential-Neuts:76.0 %,
   Band:4.0 %, Lymph:11.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.7
   mmol/L, Albumin:3.1 g/dL, LDH:567 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   87 year old male MDS s/p gallstone pancreatitis and febrile neutrapenia
   .
   #. Gallstone Pancreatitis:  Pt. was initially admitted with elevated
   LFTs, bilirubin and amylase/lipase consistent with gallstone
   pancreatitis. He went to ERCP and sludge was extracted from the bile
   ducts and a plastic stent was placed without sphincterotomy. He
   initially required frequent fluid boluses to maintain his blood
   pressure but then began to autodiurese. Stable.  s/p ERCP
   autodiuresing.  Does not appear to be having a lot of pain currently.
   Enzymes had been trending downward.
   - Clear liquid diet advance as tolerated
   - Continue cefepime/flagyl/vanc covering for neutropenic fever until
   [**5-6**]
   -T rend [**Doctor First Name **]/lipase etc.
   - electrolyte repletion
   .
   #Atrial fibrillation, with RVR: Improving after autodiuresis.  Patient
   had been refusing PO medications, and responded well to IV
   medications.  After becoming more lucid he was started on PO metoprolol
   for rate control and became somewhat bradycardic to the high 30s with
   HD stability.
   - PO metoprolol 25mg TID
 crush with apple sauce.
   .
   #.ARF: Undulating baseline, was prerenal on admission but then improved
   with IVF, UOP has been good.
   - Hold further fluids for now.
   .
   #O2 requirement: Improving w/  autodiuresis.
   - Goal negative 500cc-1L, give furosemide 10mg IV if not at goal
   # Hyperglycemia: Resolved
   -RISS for now
   .
   #. MDS/AML: Neutrapenia improving spontaneously likely not neutrapenic
   anymore. Literature supports GMCSF for neutrapenic fever in MDS if
   infection/fever not responding to Abx or with EPO to increase RBC
   production.
   - Hold on GMCSF for now as fever likely [**2-25**] pancreatitis
   .
   #Delerium: Pt. became delerioius the night after ERCP and intially this
   was attributed to pain but then did not improve w/ increased pain
   control so opiates were d/c
d. His delerium then began Improving w/
   sleep and holding opiates.  Patient answering questions currently and
   sometimes cooperative w/ exam.
   - Hold opiates
   - Improve sleep hygeine
   - Frequent reorientation during daylight hours
   - PT consult
   -OOB to chair during daylight
   .
   #. CHF: EF of 35%.
   -Hold ramipril as above
   -Careful HD monitoring.
   .
   FEN: Liquid diet, advance as tolerated.  IVF
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen not needed given diarrhea
   -Pain management standing tylenol
   .
   ACCESS:PICC
   .
   CODE STATUS: DNR/DNI
   .
   EMERGENCY CONTACT: HCP is [**Name (NI) 242**] [**Last Name (NamePattern1) 6709**], [**Telephone/Fax (1) 6710**]
   .
   DISPOSITION: call out to BMT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2182-04-30 12:46:00 Physician Attending Progress Note
Chief Complaint: Atrial fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Atrial fibrillation better controlled with metoprolol.
   Experienced some bradycardia overnight, but without hemodynamic
   compromise.
   iv access lost overnight.
   Now on room airm SaO2= 97%.
   Less cooperative today, withdrawn.
   History obtained from Medical records
   Patient unable to provide history: Withdrawn
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2182-4-29**] 01:39 AM
   Cefipime - [**2182-4-29**] 06:38 AM
   Vancomycin - [**2182-4-29**] 08:06 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-4-29**] 10:22 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2182-4-30**] 12:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 34.4
C (94
   HR: 64 (47 - 158) bpm
   BP: 89/43(55) {89/43(55) - 131/72(102)} mmHg
   RR: 30 (21 - 30) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
                  Total In:
                                                                  1,271 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                  1,031 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,271 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, Right eye prosthesis
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   60 K/uL
   119
   1.1 mg/dL
   18 mEq/L
   3.9 mEq/L
   52 mg/dL
   116 mEq/L
   145 mEq/L
   25.8 %
   4.3 K/uL
        [image002.jpg]
                             [**2182-4-25**]  03:21 AM
                             [**2182-4-25**]  03:43 AM
                             [**2182-4-25**]  02:28 PM
                             [**2182-4-26**]  04:04 AM
                             [**2182-4-26**]  03:43 PM
                             [**2182-4-27**]  08:13 AM
                             [**2182-4-28**]  10:32 AM
                             [**2182-4-29**]  06:05 AM
                             [**2182-4-29**]  12:00 PM
                             [**2182-4-29**]  06:00 PM
   WBC
   0.7
   1.3
   2.5
   3.4
   4.3
   Hct
   25.9
   23.6
   25.5
   28.4
   25.8
   Plt
   47
   92
   72
   75
   73
   60
   Cr
   1.3
   1.2
   1.3
   1.3
   1.4
   1.1
   1.1
   Glucose
   144
   147
   80
   63
   93
   150
   106
   159
   119
   Other labs: PT / PTT / INR:19.2/53.8/1.8, ALT / AST:133/83, Alk Phos /
   T Bili:128/4.5, Amylase / Lipase:145/66, Differential-Neuts:76.0 %,
   Band:4.0 %, Lymph:11.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.7
   mmol/L, Albumin:3.1 g/dL, LDH:567 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   Acute pancreatitis, attributed to gallstones, now with A-fib and
   delerium.
   ATRIAL FIBRILLATION (AFIB) -- improved rate not that patient taking PO
   meds.   Poor anticoagulaton candidate at this time (low plts).
   DELERIUM --  Delerium improved.  Now somewhat withdrawn.  [**Month (only) 51**] be
   component of ICU psychosis. Continue to monitor off narcotics.
   PANCREATITIS, ACUTE -- attributed to gallstones, perhaps passed.
   Clinically improved following ERCP.
   BILIARY OBSTRUCTION -- attributed to gallstones; s/p ERCP with
   stenting.
   RESPIRATORY STATUS -- Infiltrates on CXR may be due to CHF, evolving
   ARDS or low lung volumes.  Improved.  Monitor.
   FEVER -- Resolved.  Continue broad spectrum antimirobials to complete
   course.
   PAIN REGIMEN -- No pain.  Monitor.
   FLUIDS -- volume expanded.  Hope to net diurese.  Monitor for CHF.
   PANCYTOPENIA -- MDS underlying, perhaps leukemic transfomation.
   Neutropenia resolved.  Monitor.  GM-CSF not indicated.
   CHF -- chronic, systolic EF= 35%.  Monitor for evidence of CHF.
   ACUTE RENAL FAILURE -- improved with volume resussitation.  Continue
   fluid.  Monitor UO, BUN, creat.
   ANEMIA -- Transfusing currently.  No evidence GI bleeding.
   NUTRITIONAL SUPPORT -- initate PO fluids, with supervision.
   ACTIVITY -- OOB to chair.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2182-05-01 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p gallstone pancreatitis and febrile neutrapenia
   24 Hour Events:
 PICC LINE - START [**2182-4-30**] 02:32 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-4-30**] 05:16 PM
   Metronidazole - [**2182-5-1**] 12:10 AM
   Cefipime - [**2182-5-1**] 05:01 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-5-1**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 94 (49 - 122) bpm
   BP: 136/54(77) {85/37(55) - 145/71(95)} mmHg
   RR: 27 (18 - 30) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,055 mL
                                                                  1,135 mL
   PO:
             TF:
   IVF:
                                                                  1,055 mL
                                                                  1,135 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,055 mL
                                                                  1,135 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///19/
   Physical Examination
   Gen: Awake, answering simple yes/no questions
   HEENT: Dry MM
   Heart: Bradycardic, irregular
   Lungs: Clear anteriorly
   Abd: Soft, mildly tender, BS+, no guarding
   Ext: Trace pitting edema in upper and lower extremities bilaterally
   Labs / Radiology
   42 K/uL
   7.3 g/dL
   109 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   51 mg/dL
   127 mEq/L
   154 mEq/L
   22.7 %
   3.9 K/uL
        [image002.jpg]
                             [**2182-4-25**]  02:28 PM
                             [**2182-4-26**]  04:04 AM
                             [**2182-4-26**]  03:43 PM
                             [**2182-4-27**]  08:13 AM
                             [**2182-4-28**]  10:32 AM
                             [**2182-4-29**]  06:05 AM
                             [**2182-4-29**]  12:00 PM
                             [**2182-4-29**]  06:00 PM
                             [**2182-4-30**]  04:02 PM
                             [**2182-5-1**]  04:59 AM
   WBC
   1.3
   2.5
   3.4
   4.3
   4.0
   3.9
   Hct
   23.6
   25.5
   28.4
   25.8
   23.0
   22.7
   Plt
   92
   72
   75
   73
   60
   40
   42
   Cr
   1.3
   1.3
   1.4
   1.1
   1.1
   1.1
   0.9
   Glucose
   80
   63
   93
   150
   106
   159
   119
   132
   109
   Other labs: PT / PTT / INR:19.2/53.8/1.8, ALT / AST:60/55, Alk Phos / T
   Bili:123/2.2, Amylase / Lipase:54/37, Albumin:2.4 g/dL, LDH:489 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   87 year old male MDS s/p gallstone pancreatitis and febrile neutrapenia
   .
   #. Gallstone Pancreatitis:  Pt. was initially admitted with elevated
   LFTs, bilirubin and amylase/lipase consistent with gallstone
   pancreatitis. He went to ERCP and sludge was extracted from the bile
   ducts and a plastic stent was placed without sphincterotomy. He
   initially required frequent fluid boluses to maintain his blood
   pressure but then began to autodiurese. Stable.  s/p ERCP
   autodiuresing.  Does not appear to be having a lot of pain currently.
   Enzymes had been trending downward.
   - Clear liquid diet advance as tolerated
   - Continue cefepime/flagyl/vanc covering for neutropenic fever until
   [**5-6**]
   -T rend [**Doctor First Name **]/lipase etc.
   - electrolyte repletion
   .
   #Atrial fibrillation, with RVR: Improving after autodiuresis.  Patient
   had been refusing PO medications, and responded well to IV
   medications.  After becoming more lucid he was started on PO metoprolol
   for rate control and became somewhat bradycardic to the high 30s with
   HD stability.
   - PO metoprolol 25mg TID
 crush with apple sauce.
   .
   #.ARF: Undulating baseline, was prerenal on admission but then improved
   with IVF, UOP has been good.
   - Hold further fluids for now.
   .
   #O2 requirement: Improving w/  autodiuresis.
   - Goal negative 500cc-1L, give furosemide 10mg IV if not at goal
   # Hyperglycemia: Resolved
   -RISS for now
   .
   #. MDS/AML: Neutrapenia improving spontaneously likely not neutrapenic
   anymore. Literature supports GMCSF for neutrapenic fever in MDS if
   infection/fever not responding to Abx or with EPO to increase RBC
   production.
   - Hold on GMCSF for now as fever likely [**2-25**] pancreatitis
   .
   #Delerium: Pt. became delerioius the night after ERCP and intially this
   was attributed to pain but then did not improve w/ increased pain
   control so opiates were d/c
d. His delerium then began Improving w/
   sleep and holding opiates.  Patient answering questions currently and
   sometimes cooperative w/ exam.
   - Hold opiates
   - Improve sleep hygeine
   - Frequent reorientation during daylight hours
   - PT consult
   -OOB to chair during daylight
   .
   #. CHF: EF of 35%.
   -Hold ramipril as above
   -Careful HD monitoring.
   .
   FEN: Liquid diet, advance as tolerated.  IVF
   .
   PPX:
   -DVT ppx with pneumoboots
   -Bowel regimen not needed given diarrhea
   -Pain management standing tylenol
   .
   ACCESS:PICC
   .
   CODE STATUS: DNR/DNI
   .
   EMERGENCY CONTACT: HCP is [**Name (NI) 242**] [**Last Name (NamePattern1) 6709**], [**Telephone/Fax (1) 6710**]
   .
   DISPOSITION:  Pending, will call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2182-4-30**] 02:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2182-05-01 09:37:00 Physician Attending Progress Note
Chief Complaint: Atrial fibrillation, delerium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2182-4-30**] 02:32 PM
   Offers no new complaints.
   Refusing PO medications.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2182-4-30**] 05:16 PM
   Cefipime - [**2182-5-1**] 05:01 AM
   Metronidazole - [**2182-5-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-5-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2182-5-1**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.4
   HR: 78 (49 - 122) bpm
   BP: 128/62(78) {85/37(55) - 145/71(95)} mmHg
   RR: 21 (18 - 30) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,055 mL
                                                                  1,682 mL
   PO:
             TF:
   IVF:
                                                                  1,055 mL
                                                                  1,682 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,055 mL
                                                                  1,682 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///19/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, withdrawn
   Labs / Radiology
   7.3 g/dL
   42 K/uL
   109 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   51 mg/dL
   127 mEq/L
   154 mEq/L
   22.7 %
   3.9 K/uL
        [image002.jpg]
                             [**2182-4-25**]  02:28 PM
                             [**2182-4-26**]  04:04 AM
                             [**2182-4-26**]  03:43 PM
                             [**2182-4-27**]  08:13 AM
                             [**2182-4-28**]  10:32 AM
                             [**2182-4-29**]  06:05 AM
                             [**2182-4-29**]  12:00 PM
                             [**2182-4-29**]  06:00 PM
                             [**2182-4-30**]  04:02 PM
                             [**2182-5-1**]  04:59 AM
   WBC
   1.3
   2.5
   3.4
   4.3
   4.0
   3.9
   Hct
   23.6
   25.5
   28.4
   25.8
   23.0
   22.7
   Plt
   92
   72
   75
   73
   60
   40
   42
   Cr
   1.3
   1.3
   1.4
   1.1
   1.1
   1.1
   0.9
   Glucose
   80
   63
   93
   150
   106
   159
   119
   132
   109
   Other labs: PT / PTT / INR:19.2/53.8/1.8, ALT / AST:60/55, Alk Phos / T
   Bili:123/2.2, Amylase / Lipase:54/37, Differential-Neuts:76.0 %,
   Band:4.0 %, Lymph:11.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.7
   mmol/L, Albumin:2.4 g/dL, LDH:489 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
   Acute pancreatitis, attributed to gallstones, now with A-fib and
   delerium.
   ATRIAL FIBRILLATION (AFIB) -- improved rate not that patient taking PO
   meds.   Poor anticoagulaton candidate at this time (low plts).
   Continue meds prn (iv if required)
   DELERIUM --  Delerium improved.  Now somewhat withdrawn.  [**Month (only) 51**] be
   component of ICU psychosis. Continue to monitor off narcotics.
   PANCREATITIS, ACUTE -- attributed to gallstones, perhaps passed.
   Clinically improved following ERCP.
   BILIARY OBSTRUCTION -- attributed to gallstones; s/p ERCP with
   stenting.
   RESPIRATORY STATUS -- Infiltrates on CXR may be due to CHF, evolving
   ARDS or low lung volumes.  Improved.  Monitor.
   HYPERNATREMIA -- free H2O deficti from reduced po intake.  Provice free
   H2O.  Encourage PO as delerium clears.
   FEVER -- Resolved.  Continue broad spectrum antimirobials to complete
   course.
   PAIN REGIMEN -- No pain.  Monitor.
   FLUIDS -- free water depleted.  Replete, monitor I/O.
   PANCYTOPENIA -- MDS underlying, perhaps leukemic transfomation.
   Neutropenia resolved.  Monitor.  GM-CSF not indicated.
   CHF -- chronic, systolic EF= 35%.  Monitor for evidence of CHF.
   ACUTE RENAL FAILURE -- improved with volume resussitation.  Continue
   fluid.  Monitor UO, BUN, creat.
   ANEMIA -- Transfusing currently.  No evidence GI bleeding.
   NUTRITIONAL SUPPORT -- initate PO fluids, with supervision.
   ACTIVITY -- OOB to chair --> transfer to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2182-4-30**] 02:32 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes